US07576215B2
N-(2-CHLOROPHENYL)-N′-{3-[3-(2-TRIFLUOROMETHYLPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}UREA
The title compound was prepared from {3-[3-(2-trifluoromethylphenyl)-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 2-chlorophenyl isocyanate in substantially the same manner as described in Example 65; off-white solid: mp 230-232° C.; MS (EI) m/z 587(M+H)+.

reactant | {3-[3-(2-trifluoromethylphenyl)-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | FC(C1=C(C=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F)(F)F | C23H14F6N2
reactant | 2-chlorophenyl isocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
product | N-(2-CHLOROPHENYL)-N′-{3-[3-(2-TRIFLUOROMETHYLPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}UREA | ClC1=C(C=CC=C1)NC(=O)NC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C1=C(C=CC=C1)C(F)(F)F | C30H18ClF6N3O
